US07585982B2
Production of 2-(3,4-diethoxy-2-fluorobenzyl)isoindol-1,3-dione
To a solution of 1,2-diethoxy-3-fluorobenzene (2.28 g, 12.4 mol) and N-(hydroxymethyl)phthalimide (2.41 g, 13.6 mol) in 1,2-dimethoxyethane (8 mL), a solution of sulfuric acid (8 mL) in 1,2-dimethoxyethane (8 mL) was added dropwise on ice, and the mixture was stirred at room temperature for twelve hours. The reaction mixture was poured into water (100 mL), and crystals were filtered. The obtained crystals were recrystallized from acetone and water, and the precipitated crystals were filtered. After the filtrate was concentrated under reduced pressure, the residue was crystallized from acetone to give 0.96 g of the title compound (yield: 23%) as white crystals.

reactant | 1,2-diethoxy-3-fluorobenzene | 12.4 mol, 2.28 g | C(C)OC1=C(C(=CC=C1)F)OCC | C10H13FO2
reactant | N-(hydroxymethyl)phthalimide | 13.6 mol, 2.41 g | OCN1C(C=2C(C1=O)=CC=CC2)=O | C9H7NO3
reactant | sulfuric acid | 8 mL | S(O)(O)(=O)=O | H2O4S
reactant | water | 100 mL | O | H2O
solvent | 1,2-dimethoxyethane | 8 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 8 mL | COCCOC | C4H10O2
product | 2-(3,4-diethoxy-2-fluorobenzyl)isoindol-1,3-dione | 0.96 g, yield: 23% | C(C)OC=1C(=C(CN2C(C3=CC=CC=C3C2=O)=O)C=CC1OCC)F | C19H18FNO4
